Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 

high-dose MTX (started ___, presenting 
for cycle 11 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. He continued on 2 week intervals until 
cycle 7, at which point MRI improved so switched to monthly 
cycles.

On arrival to the floor today he feels well but says he has been 
having a lot of shoulder pain. initially intermittent, but in 
the last week or so pretty much constant. can't sleep on that 
side. no trauma he can recall. he had mentioned it on last 
admission but it was only mild and occasional at that time, now 
much worse. His double vision is stable. 

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 

of valacyclovir 1g BID. He has subsequently been transitioned to 

higher dose acyclovir 800mg BID and has not had any breakthrough 

lesions.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest pressure, or weakness. Denies nausea, vomiting, 
constipation, abdominal pain. Denies dysuria, or 
myalgias. Denies rashes or skin changes. All other ROS negative  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
-- ___   - C7D1 HD-MTX
-- ___   - C8D1 HD-MTX
-- ___  - C9D1 HD-MTX
-- ___  - C10D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
Physical Exam:
VS: 97.9   108/68    65    18     99%RA 
GEN: alert, oriented to name, place and situation. no acute
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric,
MMM, OP clear no erythema.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. R deltoid firmness compared to L, no 
discrete mass, no skin changes
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major
muscle groups 
.
DISCHARGE EXAM
VS: T= 97.5 HR= 106/69 (95/49-145/88) 55 18 100% RA 
GENERAL: WDWN in NAD. Oriented x3.  
HEENT: NCAT. Sclerae anicteric. PERRL, EOMI.  
NECK: Supple with no JVD.  
CARDIAC: RR, normal S1, S2. No m/r/g.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: Alert, appropriately conversant, CNs2-12 intact, strength 
___ throughout, light touch sensation grossly intact throughout. 
 

 
Pertinent Results:
==================================
              Labs
==================================
___ 09:37AM BLOOD WBC-4.5 RBC-4.56* Hgb-13.9* Hct-41.3 
MCV-91 MCH-30.5 MCHC-33.7 RDW-14.0 Plt ___
___ 09:37AM BLOOD ___ PTT-34.4 ___
___ 09:37AM BLOOD Glucose-96 UreaN-15 Creat-0.8 Na-137 
K-3.9 Cl-103 HCO3-26 AnGap-12
___ 09:37AM BLOOD ALT-18 AST-17 AlkPhos-78 TotBili-0.4
___ 09:37AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.8

DISCHARGE LABS 
___ 05:22AM BLOOD WBC-7.2# RBC-4.54* Hgb-13.6* Hct-41.8 
MCV-92 MCH-30.0 MCHC-32.5 RDW-13.8 Plt ___
___ 05:22AM BLOOD Glucose-134* UreaN-18 Creat-1.0 Na-138 
K-4.1 Cl-103 HCO3-26 AnGap-13

==================================
            Procedures
==================================
Port placement ___
*** UNAPPROVED (PRELIMINARY) REPORT ***
INDICATION: ___ year old man with CNS lymphoma
 
COMPARISON: CHEST X-RAY ___HEST ___
 
TECHNIQUE: OPERATORS: Dr. ___ (interventional 
radiology fellow) and Dr. ___ (interventional radiology 
attending) performed the procedure. The attending was present 
and supervising throughout the procedure.
 
ANESTHESIA: Moderate sedation was provided by administrating 
divided doses of 150mcg of fentanyl and 3 mg of midazolam 
throughout the total intra-service time of 45 minutes during 
which the patient's hemodynamic parameters were continuously 
monitored by an independent trained radiology nurse. 1% 
lidocaine was injected in the skin and subcutaneous tissues 
overlying the access site.
 
CONTRAST: 0 ml of Optiray contrast.
 
FLUOROSCOPY TIME AND DOSE: 1.3 min, approximately 15 mGy
 
PROCEDURE 1. Right internal jugular approach chest double lumen 
Port-a-cath placement
 
PROCEDURE DETAILS: Following the explanation of the risks, 
benefits and
alternatives to the procedure, written informed consent was 
obtained from the patient. The patient was then brought to the 
angiography suite and placed supine on the exam table. A 
pre-procedure time-out was performed per ___ protocol. The 
upper chest and right neck were prepped and draped in the usual 
sterile fashion.
 
Under continuous ultrasound guidance, the patent right internal 
jugular vein was compressible and accessed using a micropuncture 
needle. Permanent
ultrasound images were obtained before and after intravenous 
access, which
confirmed vein patency. Subsequently a Nitinol wire was passed 
into the right atrium using fluoroscopic guidance. The needle 
was exchanged for a
micropuncture sheath. The Nitinol wire was removed and a short 
___ wire was advanced to make appropriate measurements for 
catheter length. The ___ wire was then passed distally into 
the IVC.
 
Next, attention was turned towards creation of a subcutaneous 
pocket over the upper anterior chest wall. After instilling 
superficial and deeper local anesthesia using lidocaine mixed 
with epinephrine, a 2.5 cm transverse incision was made and a 
subcutaneous pocket was created by using blunt dissection. The 
double lumen port was then connected to the catheter. The 
catheter was tunneled from the subcutaneous pocket towards the 
venotomy site from where it was brought out using a tunneling 
device. The port was then connected to the catheter and checks 
were made for any leakage by accessing both diaphragms using a 
non-coring ___ needle. No leaks were found.
 
The port was then placed in the subcutaneous pocket and secured 
with ___
Prolene sutures on either side. The venotomy tract was dilated 
using the
introducer of the peel-away sheath supplied. Following this, the 
peel-away
sheath was placed over the ___ wire through which the port was 
threaded into the right side of the heart with the tip in the 
right atrium. The sheath was then peeled away.
 
The subcutaneous pocket was closed in layers with ___ 
interrupted and ___
subcuticular continuous Vicryl sutures. Steri-strips and a 
single Vicryl
suture was used to close the venotomy incision site. 
Steri-Strips were also applied over the sutures. Final spot 
fluoroscopic image demonstrating good alignment of the catheter 
and no kinking. The tip is in the right atrium.
 
Both lumens of the port were accessed using a non coring ___ 
needle and
could be aspirated and flushed easily. Sterile dressings were 
applied. The
patient tolerated the procedure well without immediate 
complication. The port was left accessed as requested.
 
FINDINGS:
 
Patent right internal jugular vein. Final fluoroscopic image 
showing port with catheter tip terminating in the right atrium.
 
IMPRESSION:
 
Successful placement of a double lumen chest Port-a-cath via the 
right
internal jugular venous approach. The tip of the catheter 
terminates in the right atrium. The catheter is accessed and 
ready for use.

CARDIAC CATHETERIZATION 
ESTIMATED blood loss: 5 cc
Hemodynamics (see above):
Coronary angiography:  right dominant
LMCA: 
LAD:  80% proximal, chronic 100% mid with distal vessel filling
via collaterals
LCX:  30% OM with patent stent
RCA:  100% mid with left to right collaterals to distal RCA
Interventional details After discussion with Oncology, decided 
to proceed with stenting. Change for JR4 guide, drug coated 
stent of occluded RCA with 3.5 by 34 Resolute.  Change for XB3.5 
guide and drug coated stent of
proximal LAD with 2.75 by 12 Resolute with good results. 
Angiomax used. 

Assessment & Recommendations
 1. ASA 81 mg daily indefinitely and plavix 75 mg daily for one
year.

IMAGING 
ECHO ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal inferior and distal septal segments (LAD and RCA disease). 
The remaining segments contract normally (LVEF = 45%). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w multivessel CAD. 

Compared with the prior study (images reviewed) of ___, 
basal inferior hypokinesis is new. The other findings are 
similar.  

MRI Head ___
IMPRESSION:  
  
1. In comparison with the most recent examination, no 
significant changes are identified, relatively stable areas of 
high-signal intensity in the 
subcortical white matter and periventricular region detected on 
T2 and FLAIR sequences, probably related with HIV encephalopathy 
versus drug/treatment related changes. 
  
2. In the area of the fourth ventricle on the right, again 
postsurgical 
changes are re- demonstrated with minimal residual enhancement 
and 
susceptibility changes, likely consistent with residual blood 
products, no new lesions or new areas with abnormal enhancement 
are seen.) 

CT shoulder
IMPRESSION:  
  
1.  No definite shoulder mass identified. 
  
2.  Small focus of ___ opacities centrilobular 
nodularity in the right middle lobe, which could reflect a sign 
of early infection. Recommend clinical correlation. 
  
3. Mild degenerative changes at the right shoulder and 
acromioclavicular 
joints. 
  
4.  Air cysts in the lungs. This is nonspecific, but could be 
seen in the 
setting of Langerhans cell histiocytosis and 
lymphangiomyomatosis (unlikely in male patients), as well as 
other processes such as lymphocytic interstitial  pneumonia. 

 
Brief Hospital Course:
Assessment and Plan: ___ male with HIV, CAD, CNS lymphoma here 
for cycle 11 high dose methotrexate treatment course complicated 
by NSTEMI with subsequent DES to the RCA and ___ LAD. 

# NSTEMI- On ___ he experienced acute onset of chest discomfort 
with radiation down the left arm after walking around the 
nursingstation. His pain improved with sublingual nitroglycerin. 
His EKGduring chest pain showed sinus rhythm with a right bundle 
branchblock and new t-wave inversions in V2-V3 with ST 
depressions in V4-V5. He was also found to have elevated cardiac 
biomarkers with a troponin T that peaked at 0.19 and a CKMB that 
peaked at 13.
.
He underwent coronary angiography which demonstrated a 
rightdominant system with an 80% proximal LAD stenosis with 
chronic 100% mid-vessel occlusion with distal filling of the 
vessel viacollaterals. The circumflex had 30% lesion with a 
patent OM
stent. The RCA was 100% occluded in the mid-portion of the 
vessel with left to right collaterals. He had a 3.5x34mm 
Resolute drug eluting stent to the RCA and then had a 2.75x12mm 
Resolute drug eluting stent to the proximal LAD.
.
He had a post-procedure echocardiogram done which demonstrated 
an ejection fraction of 45% with hypokinesis of the basal 
inferior and distal septal segments. The right ventricle was 
normal and there was no significant valvular disease. He was 
continued on asa 81 mg and started on plavix 75 mg which he will 
need to continue for at least ___ year. His home pravastatin was 
changed to atorvastatin 80 mg and his home metoprolol succinate 
was increased to 25 mg daily. He will follow-up with Dr. ___. 

.
# port placement: as planned, port placement ___ for IV access. 
This will need to be flushed monthly. 
.
# R shoulder pain: tenderness in area of deltoid on R, vague 
firmness ? mass. normal CT shoulder
.
# CNS lymphoma: MRI after cycle 7 improved, switched to monthly 
methotrexate cycles. Repeat MRI on this hospitalization stable. 
He me cycle 4 of high-dose methotrexate, which he tolerated 
without complication. There was no evidence of vitreous lymphoma 
on neuroopthalmology exam ___. Patient will f/u with Dr. ___ 
to determine timing of his next course of methotrexate.
.
# HIV: Patient continued on home meds truvada and kaletra
.
# HSV: had been on valacyclovir 1g BID due to breakthrough 
lesions on suppressive dose acyclovir. spoke with his NP at 
___ and switched to acyclovir 800mg BID early ___. doing okay on this dose, no breakthrough lesions
.
# hypertension: Patient was continued on lisinopril.  His home 
metoprolol was increased as above.  There was no evidence of 
vitreous lymphoma on neuroopthalmology exam ___.
.
# Air cysts in the lungs- CT shoulder showed incidental findings 
of air cyst in her lungs. This was felt to be non specific in 
nature. No evidence of infection. Patient will f/u with 
oncology.
.
Transitional Issues
-Patient will follow-up with oncology and cardiology
- Oncology will call him regarding plan for the next 
chemotherapy cycle
- Patient was full code throughtout this admission
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
7. Aspirin 81 mg PO DAILY 
8. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 40 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*1
9. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
10. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___. You were admitted for treatment of
your brain lymphoma with high dose methotrexate chemotherapy.
You tolerated the chemo very well. You did experience some chest 
pain and therefore required a cardiac catheterization. Stents 
were placed to open the arteries of your heart. You were started 
on new medications to help your heart. It is very important that 
you dont stop these medications unless instructed to do so by 
your cardiologist.  You also had a port-a-cath placed on this 
admission. You should keep it clean and dressed as instructed. 
 
Followup Instructions:
___